**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*    Modeling services provided by   *
* Interface Technologies www.i-t.com *
**************************************
.SUBCKT mj11029 1 2 3
* Model generated on Mar  1, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 29.8087
D1 1 3 dmodel
R1 2 4 3000
R2 4 3 25
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=9.64132 N=0.971277 XTI=2.97128
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=1.18974e-11 BF=102.478 NF=0.85 VAF=23.6268
+IKF=0.785701 ISE=1.69357e-12 NE=1.51232 BR=0.735545
+NR=0.75 VAR=64.731 IKR=0.101813 ISC=1e-13
+NC=1.97128 RB=6.66919 IRB=0.1 RBM=3.82372
+RE=0.043184 RC=0.21592 XTB=0.466558 XTI=2.96834 EG=1.05
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1e-11
+VJC=0.75 MJC=0.33 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=1.18974e-11 BF=102.478 NF=0.85 VAF=23.6268
+IKF=0.785701 ISE=1.69357e-12 NE=1.51232 BR=0.735545
+NR=0.75 VAR=64.731 IKR=0.101813 ISC=1e-13
+NC=1.97128 RB=6.66919 IRB=0.1 RBM=3.82372
+RE=0.043184 RC=0.21592 XTB=0.466558 XTI=2.96834 EG=1.05
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.75 MJC=0.33 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS
