.SUBCKT mj11032 1 2 3
**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Apr 24, 02
* MODEL FORMAT: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 23.3162
D1 3 1 dmodel
R1 2 4 3000
R2 4 3 25
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=0 N=0.893521 XTI=2.89352
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel npn
+IS=5.80886e-13 BF=266.941 NF=1.05049 VAF=26.9561
+IKF=0.423224 ISE=3.85324e-10 NE=3.96209 BR=0.092321
+NR=1.33263 VAR=242.006 IKR=0.0967584 ISC=1.00385e-13
+NC=1.88632 RB=11.0165 IRB=0.0794774 RBM=0.0036418
+RE=0.000158222 RC=0.966115 XTB=0.0877601 XTI=4 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=1e-11
+VJC=0.75 MJC=0.33 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model npn
+IS=5.80886e-13 BF=266.941 NF=1.05049 VAF=26.9561
+IKF=0.423224 ISE=3.85324e-10 NE=3.96209 BR=0.092321
+NR=1.33263 VAR=242.006 IKR=0.0967584 ISC=1.00385e-13
+NC=1.88632 RB=11.0165 IRB=0.0794774 RBM=0.0036418
+RE=0.000158222 RC=0.966115 XTB=0.0877601 XTI=4 EG=1.206
+CJE=1e-11 VJE=0.75 MJE=0.33 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.75 MJC=0.33 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS mj11032

